US04278677
3.15 g of silver oxide and 2.25 ml of isopropyl iodide were added to a solution of 4.5 g of 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole in 90 ml of acetone and the mixture was heated at 50° C. for 3 hours and was then cooled. The mixture was filtered and the filtrate was distilled to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 6-3-1 chloroform-acetone-triethylamine mixture. The fractions were distilled to dryness and the residue was dissoved in 200 ml of refluxing ethyl acetate. The mixture was filtered and the filtrate was concentrated to 150 ml and cooled to 20° C. Crystallization was induced and the mixture was iced overnight and vacuum filtered. The recovered product was washed with ethyl acetate and dried to obtain 3.9 g of 3-(1-propyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole melting at 210° C.

reactant | isopropyl iodide | 2.25 ml | C(C)(C)I | C3H7I
reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 4.5 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | acetone | 90 ml | CC(=O)C | C3H6O
catalyst | silver oxide | 3.15 g | [Ag]=O
product | 3-(1-propyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.9 g | C(CC)N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C16H20N2
